US07964627B2
N′-[2-Methoxy-5-(5-methoxy-3-methyl indole-1-sulfonyl) phenyl]-N,N-dimethyl ethane-1,2-diamine
1-(3′-Amino-4′-methoxy benzenesulfonyl)-5-methoxy-3-methyl-1H-indole (600 mg, 1.7 mmol) (obtained from preparation 2) was taken into a 25 mL two necked round bottom flask containing DMF (3 mL) and m-Xylene (3 mL). Added 2-dimethylamino ethyl chloride hydrochloride (490 mg, 3.4 mmol) and heated at 135° C.-138° C. for a period of 10 hours and the progress of the reaction was monitored by thin layer chromatography. After completion of the reaction, the reaction mass was cooled to room temperature, quenched into chilled water (25 mL) and pH adjusted to 9.0 to 10.0 with 40% aqueous sodium hydroxide solution. The product was extracted with dichloromethane (2×50 mL). The organic layer was washed with brine solution, dried over anhydrous sodium sulphate and concentrated under reduced pressure to obtain crude compound. The obtained technical product was purified by column chromatography, eluent being ethylacetate and triethylamine (99:1).

reactant | 1-(3′-Amino-4′-methoxy benzenesulfonyl)-5-methoxy-3-methyl-1H-indole | 1.7 mmol, 600 mg | NC=1C=C(C=CC1OC)S(=O)(=O)N1C=C(C2=CC(=CC=C12)OC)C | C17H18N2O4S
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | 2-dimethylamino ethyl chloride hydrochloride | 3.4 mmol, 490 mg | Cl.CN(CCCl)C
solvent | m-Xylene | 3 mL | C1(=CC(=CC=C1)C)C | C8H10
product | N′-[2-Methoxy-5-(5-methoxy-3-methyl indole-1-sulfonyl) phenyl]-N,N-dimethyl ethane-1,2-diamine | COC1=C(C=C(C=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)OC)C)NCCN(C)C | C21H27N3O4S
